US05618827
[1-[2-[(Methylsulphonyl)amino]ethyl]-4-piperidinyl]methyl[2-(3-methyl-1,2,4-oxadiazol-5-yl)phenyl]carbamate
[2-(3-Methyl-1,2,4-oxadiazol-5-yl)phenyl]carbamoyl chloride (7.5 g) was placed in a flask equipped with an air stirrer and ground to a powder N-[2-[4-(Hydroxymethyl)-1-piperidinyl]ethyl]methanesulphonamide (9.33 g) was added and the solids intimately mixed under nitrogen for 10 min at room temperature. The mixture was stirred under a stream of nitrogen at 150° for 10 min. The mixture was allowed to cool then toluene/ethanol (10:1; 110 ml) was cautiously added followed by 8% sodium bicarbonate solution. The mixture was vigorously stirred, the layers were separated and the aqueous phase extracted with 10% ethanol in dichloromethane (4×100 ml). The organic solutions were combined and dried and concentrated in vacuo to give a beige solid. This was purified by FCC eluting with System A (100:8:1) to give the title compound (11.83 g) as fluffy off-white needles.

reactant | [2-(3-Methyl-1,2,4-oxadiazol-5-yl)phenyl]carbamoyl chloride | 7.5 g | CC1=NOC(=N1)C1=C(C=CC=C1)NC(=O)Cl | C10H8ClN3O2
reactant | N-[2-[4-(Hydroxymethyl)-1-piperidinyl]ethyl]methanesulphonamide | 9.33 g | OCC1CCN(CC1)CCNS(=O)(=O)C | C9H20N2O3S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | toluene ethanol | 110 ml | C1(=CC=CC=C1)C.C(C)O
product | [1-[2-[(Methylsulphonyl)amino]ethyl]-4-piperidinyl]methyl[2-(3-methyl-1,2,4-oxadiazol-5-yl)phenyl]carbamate | 11.83 g | CS(=O)(=O)NCCN1CCC(CC1)OC(N(C1=C(C=CC=C1)C1=NC(=NO1)C)C)=O | C19H27N5O5S
